US05064825
2-Butyl-4-(methylamino)-1-(2'-(tetrazol-5-yl)biphen-4-yl)methylimidazole-5-carboxylic acid
The title compound can be prepared from 2-butyl-4-(N-methylacetamido)-1-(2'-(tetrazol-5-yl)-biphen-4-yl)methylimidazole-5-carboxylic acid by reaction with 3 molar equivalents of diisobutyl-aluminum hydride in THF at room temperature followed by aqueous workup (extraction from 0.1% aqueous HOAc with EtOAc and isolation (SiO2, 35:65:1 CH2Cl2 /MeOH/ NH4OH). Alternatively' the title compound could be prepared from 4-methylamino-5-benzyloxycarbonyl-2-butyl-1-(2'-(N-triphenylmethyltetrazol-5-yl-biphen-4-yl)methylimidazole (mentioned in Example 18, Step 2) by reaction as outlined in Example 18, Step 3.

reactant | 2-butyl-4-(N-methylacetamido)-1-(2'-(tetrazol-5-yl)-biphen-4-yl)methylimidazole-5-carboxylic acid | C(CCC)C=1N(C(=C(N1)N(C(C)=O)C)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C25H27N7O3
reactant | diisobutyl-aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 2-Butyl-4-(methylamino)-1-(2'-(tetrazol-5-yl)biphen-4-yl)methylimidazole-5-carboxylic acid | C(CCC)C=1N(C(=C(N1)NC)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C23H25N7O2
